US04430265
In a 2 N-aqueous solution of sodium hydroxide (500 ml) was dissolved 11-aminoundecanoic acid (30.2 g, 0.15 mol) under mild heating (50° C.). With intense stirring, carbobenzoxy chloride (30.7 g, 0.18 mol) was added in 4 installments over a period of 30 minutes, after which the mixture was stirred for 2 hours. The reaction mixture was cooled with ice, adjusted to pH 2 with 6 N-hydrochloric acid and extracted with ethyl acetate (600 ml). The ethyl acetate layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off and petroleum ether was added to the crystalline residue. After cooling, the crystals were recovered by filtration. By the above procedure there was obtained 36.0 g of N-carbobenzoxy-11-aminoundecanoic acid. m.p. 96°-97° C.; Rf1 =0.67.

reactant | 11-aminoundecanoic acid | 0.15 mol, 30.2 g | NCCCCCCCCCCC(=O)O | C11H23NO2
reactant | carbobenzoxy chloride | 0.18 mol, 30.7 g | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 500 ml | [OH-].[Na+]
product | N-carbobenzoxy-11-aminoundecanoic acid | 36.0 g | C(=O)(OCC1=CC=CC=C1)NCCCCCCCCCCC(=O)O | C19H29NO4
